US08058300B2
Step 1: 2-Chloro-cyclohex-1-enecarbaldehyde:
To a solution of cyclohexanone (1.34 g, 13.6 mmol) in toluene at room temperature was added DMF (1.58 mL, 20.5 mmol) and phosphorus oxychloride (1.88 mL, 20.5 mmol). The reaction was stirred overnight at room temperature, and then diluted with H2O and stirred for 30 minutes. 4N Aqueous NaOH (10 mL) was added, and the mixture was extracted with EtOAc. The combined organic layers were washed with saturated aqueous NH4Cl, dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | cyclohexanone | 13.6 mmol, 1.34 g | C1(CCCCC1)=O | C6H10O
reactant | DMF | 20.5 mmol, 1.58 mL | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 20.5 mmol, 1.88 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 4N, 10 mL | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
product | 2-Chloro-cyclohex-1-enecarbaldehyde | ClC1=C(CCCC1)C=O | C7H9ClO
